Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
symptomatic anemia
chronic abnormal uterine bleeding with acute menorrhagia
uterine fibroids
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ with fibroid uterus, menorrhagia, anemia requiring 
4 prior transfusions presents to the ED for transfusion given 
her Hct of ___ yesterday. Pt has been non-compliant with 
outpatient follow up. Pt is scheduled for robotic-assisted 
TLH/salpingectomy on ___. She last received Lupron on ___.

Pt has long hx of menorrhagia. Over the past month, she had no 
bleeding from ___. She had an EMB on ___ (Dr ___ and 
started to bleed afterwards. She continued to bleed ___. 
She got Lupon on ___ and her bleeding stopped until ___ when 
she started to bleed again. States her bleeding has been "like 
the first day of her period" since ___. She gets occasional 
cramps but denies any pain currently. Tolerating regular diet.

She does report feeling progressively tired over the past 2 
weeks. She c/o SOB, lightheaded, palpitations, and fatigue with 
standing or any exertion. She feels like she typically does 
prior to needing a transfusion. Of note, she has a Mirena IUD in 
place, which is currently malpositioned in cervix.

Pt had labs drawn by PCP at ___ and Hct 22. Yesterday, her Hct 
was 21 and it was recommended that she come to ED. Her last 
transfusion was in ___.

WORKUP: 
___: (Dr ___ Secretory endometrium, 
approximately day ___. No hyperplasia or atypia is identified.

___ U/S: (___)
- uterus measures 11 x 6 x 7.5cm
- multiple uterine fibroids (at least 10 discrete). dominant 
fibroid on left measures 3.4 x 3.3 x 4cm. dominant fibroid on R 
has submucosal component and measures ~2.7 x 2.5 x 2.7cm
- endometrium is distorted by fibroids, slightly heterogenous. 
Stripe measures 9mm
- IUD is malpositioned, low-lying in the cervix
- nl ovaries
- small amt simple free fluid 
 
Past Medical History:
OBSTETRIC HISTORY: G2P2002 
1.  (___) C-section at 42 weeks, male 6.9 lbs
2.  (___) C-section at 40 weeks, female 6.7 lbs
 
GYNECOLOGIC HISTORY:  
- Menarche age ___, LMP: (___)
- Irreg cycles q2-4weeks x 2 weeks extremely heavy flow, 
dysmenorrhea, no dyspareunia
- Pt is sexually active, heterosexual, reports 1 total sexual
partners throughout life.
- Contraception: Surgical tubal sterilization and Mirena IUD
- STD History: Chlamydia (___)

HEALTHCARE MAINTENANCE:
- Last PAP (___): Normal per patient report
- Last mammogram: Never
 
MEDICAL PROBLEMS:  
1.  Bipolar disorder diagnosed in ___, on meds 
2.  Anxiety on meds
3.  Insomnia on meds
4.  Neck issues (pinched nerve in neck) on meds
5.  Migraines with aura 
6.  Chlamydia, ___
7.  Uterine fibroids
8.  Abnormal uterine bleeding
9.  Severe anemia requiring 4 transfusions in the past ___ yr

SURGICAL HISTORY:  
1.  (___) C-section
2.  (___) C-section + concomitant tubal sterilization 

 
Social History:
___
Family History:
- Family h/o gynecologic cancers: denies
- Diabetes (maternal family)
- High blood pressure (maternal family)

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Pertinent Results:
___ 12:40PM BLOOD WBC-6.8 RBC-3.09* Hgb-6.1* Hct-21.4* 
MCV-69* MCH-19.7* MCHC-28.5* RDW-17.2* RDWSD-42.9 Plt ___
___ 12:55PM BLOOD WBC-5.1 RBC-2.93* Hgb-6.0* Hct-20.8* 
MCV-71* MCH-20.5* MCHC-28.8* RDW-17.2* RDWSD-44.0 Plt ___
___ 06:08AM BLOOD WBC-7.9# RBC-4.08# Hgb-9.2*# Hct-30.1*# 
MCV-74* MCH-22.5* MCHC-30.6* RDW-18.2* RDWSD-48.3* Plt ___
___ 12:55PM BLOOD Neuts-42.4 ___ Monos-10.1 Eos-1.8 
Baso-0.2 Im ___ AbsNeut-2.15 AbsLymp-2.29 AbsMono-0.51 
AbsEos-0.09 AbsBaso-0.01
___ 12:40PM BLOOD Plt ___
___ 12:55PM BLOOD Plt ___
___ 06:08AM BLOOD Plt ___
___ 12:55PM BLOOD Glucose-101* UreaN-9 Creat-0.7 Na-138 
K-3.7 Cl-99 HCO3-26 AnGap-17
___ 06:08AM BLOOD Glucose-94 UreaN-9 Na-139 K-4.1 Cl-104 
HCO3-25 AnGap-14
___ 06:08AM BLOOD Calcium-9.1 Phos-3.9 Mg-1.9
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
for the management of symptomatic anemia and menorrhagia 
secondary to a known fibroid uterus. 

Her hematocrit was trended showing a decrease from 22 on ___ to 
20.4 on the day of admission. She was admitted for blood 
transfusion. 

Her vital signs remained stable throughout her hospitalization. 
She was transfused with 3 unites of packed Red Blood Cells which 
she tolerated well. Her hematocrit rose from 20.4 to 30.1. She 
was given IV iron. She reported symptomatic improvement 
following the transfusions.

By hospital day 1, she was clinically improved and her vital 
signs were stable. She was discharged home given anemia 
precautions and plan for a laparoscopic hysterectomy and 
bilateral salpingectomy with Dr. ___ ___ at 7:30am for 
definitive management. 

 
Medications on Admission:
- Flexeril prn neck pain (hasn't taken recently)
- Lamictal 100mg qhs (takes intermittently)
- Seroquel 50mg qhs for sleep
 
Discharge Medications:
1. QUEtiapine Fumarate 25 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroid uterus
anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___ ,

You were admitted to the gynecology service after presenting to 
the ___ ED with heavy vaginal bleeding and anemia in the 
setting of fibroids. You had a blood transfusion and your 
symptoms improved.  You have recovered well and the team 
believes you are ready to be discharged home. You are scheduled 
for surgery with Dr. ___ to remove your uterus and fallopian 
tubes on ___ at 7:30am. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___